US04886785
4.68 g of DMSO were added under nitrogen to a stirred solution of 3.81 g of oxalyl chloride in 75 ml of methylene chloride at -60° C. to -50° C. After 2 minutes a solution of 6.4 g of 2-(2,4-dichlorophenoxy)propanol in 40 ml of methylene chloride was added. The mixture was stirred at -60° C. for a further 15 minutes and was then treated with 13.7 g of triethylamine. After a further 5 minutes at -60° C. the mixture was allowed to warm to room temperature. 150 ml of water were added and the layers were separated. The aqueous layer was extracted with 150 ml of methylene chloride and the combined organic extracts were washed successively with sodium chloride solution, dilute hydrochloric acid, water, dilute sodium carbonate solution and water, dried over sodium sulphate and evaporated. The residue was purified by chromatography on silica gel using ethyl acetate/n-hexane (1:4) for the elution. There were obtained 1.4 g of 2-(2,4-dichlorophenoxy)propionaldehyde, mp 87°-88° C.

reactant | DMSO | 4.68 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 3.81 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(2,4-dichlorophenoxy)propanol | 6.4 g | ClC1=C(OC(CO)C)C=CC(=C1)Cl | C9H10Cl2O2
reactant | triethylamine | 13.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 150 ml | O | H2O
product | 2-(2,4-dichlorophenoxy)propionaldehyde | 1.4 g | ClC1=C(OC(C=O)C)C=CC(=C1)Cl | C9H8Cl2O2
